US07342118B2
1-(1,1-Dimethyl-2-pyrrolidin-1-yl-ethyl)-4-nitro-1H-imidazole
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde was reacted with pyrrolidine to provide the title compound: H1 NMR (400 MHz, CDCl3) 1.56 (s, 6H), 1.61 (m, 4H), 2.35 (m, 4H), 2.70 (m, 4H), 7.60 (s,1H), 7.92 (s, 1H); MS m/z 239.2 (M+1).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde | CC(C=O)(C)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-(1,1-Dimethyl-2-pyrrolidin-1-yl-ethyl)-4-nitro-1H-imidazole | CC(CN1CCCC1)(C)N1C=NC(=C1)[N+](=O)[O-] | C11H18N4O2
